US04933330
5-Amino-2-hydroxybenzoic acid (200 g, 1.31 mole) was suspended in methanol (2 1), concentrated sulphuric acid (120 ml) was slowly added and the reaction mixture was refluxed for 48 hours under nitrogen. Subsequently the reaction mixture was brought to room temperature and neutralized with 33% aqueous sodium hydroxide (120 ml) and 1M aqueous sodium hydrogen carbonate (to neutral reaction). The reaction mixture was extracted with ether (3×400 ml), the ethereal solution was washed with 1M aqueous sodium hydrogen carbonate (2×100 ml) and water (2×100 ml) and dried over anhydrous magnesium sulphate (50 g) and the ether evaporated. The remaining product was recrystallized from hexane, with activated carbon, to give methyl 2-hydroxy-5-aminobenzoate (98.3 g, 45%), m.p. 93°-95° C. Found (Calc. for C8H9NO3) C 57.38 (57.48), H 5.41 (5.39), N 8.38 (8.38).

reactant | 5-Amino-2-hydroxybenzoic acid | 1.31 mole, 200 g | NC=1C=CC(=C(C(=O)O)C1)O | C7H7NO3
reactant | sulphuric acid | 120 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 120 ml | [OH-].[Na+]
reactant | sodium hydrogen carbonate | 1M | C(O)([O-])=O.[Na+]
solvent | methanol | CO | CH4O
product | methyl 2-hydroxy-5-aminobenzoate | 98.3 g, 45% | OC1=C(C(=O)OC)C=C(C=C1)N | C8H9NO3
